US03975524
1-Thiomorpholino-3-piperazino-5-fluoro-isoquinoline was prepared analogous to Example 3 from 1-thiomorpholino-3-chloro-5-fluoro-isoquinoline by heating for 30 hours with piperazine in diphenyl ether at 200°C. M.p. 213°-215°C (from isopropanol); yield: 90% of theory.

reactant | 1-thiomorpholino-3-chloro-5-fluoro-isoquinoline | S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)F)Cl | C13H12ClFN2S
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 1-Thiomorpholino-3-piperazino-5-fluoro-isoquinoline | yield: 90% | S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)F)N1CCNCC1 | C17H21FN4S
